2113-11-12 09:59:00 Physician Attending Progress Note
Chief Complaint: resp failure, COPD exacerbation, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58 yo man with severe COPD exacerbation.
   24 Hour Events:
 ARTERIAL LINE - START [**2113-11-12**] 02:17 AM
   Ventilation much improved on slightly higher Vt and lower f (14).
   Sputum 1+ GNR, >25 PMRs/100k field.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2113-11-11**] 08:01 PM
   Azithromycin - [**2113-11-11**] 11:20 PM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2113-11-12**] 01:39 AM
   Fentanyl - [**2113-11-12**] 01:39 AM
   Lansoprazole (Prevacid) - [**2113-11-12**] 07:41 AM
   Other medications:
   Flowsheet Data as of  [**2113-11-12**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 64 (60 - 85) bpm
   BP: 93/50(65) {93/50(65) - 139/77(99)} mmHg
   RR: 14 (14 - 16) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  2,237 mL
                                                                  1,460 mL
   PO:
           TF:
   IVF:
                                                                  1,888 mL
                                                                  1,119 mL
   Blood products:
                                                                    289 mL
                                                                    281 mL
   Total out:
                                                                    540 mL
                                                                    355 mL
   Urine:
                                                                    540 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,697 mL
                                                                  1,105 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 20 cmH2O
   SpO2: 95%
   ABG: 7.42/63/92.[**Numeric Identifier 491**]/40/12
   Ve: 7.7 L/min
   PaO2 / FiO2: 155
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, anicteric
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), RRR
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Wheezes : ,
   Diminished: ), yellow/tan secretions much improved
   Extremities: no edema
   Skin:  Warm, Rash: unchanged scaly rash over face, extremities
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, opens eyes on command
   Labs / Radiology
   11.6 g/dL
   250 K/uL
   127 mg/dL
   0.5 mg/dL
   40 mEq/L
   4.2 mEq/L
   30 mg/dL
   102 mEq/L
   146 mEq/L
   37.0 %
   7.8 K/uL
        [image002.jpg]
                             [**2113-11-11**]  01:36 AM
                             [**2113-11-11**]  04:48 AM
                             [**2113-11-11**]  05:06 AM
                             [**2113-11-11**]  11:43 AM
                             [**2113-11-11**]  03:22 PM
                             [**2113-11-12**]  01:40 AM
                             [**2113-11-12**]  04:23 AM
                             [**2113-11-12**]  04:37 AM
   WBC
   9.4
   7.8
   Hct
   44.7
   37.0
   Plt
   238
   250
   Cr
   0.7
   0.8
   0.5
   TropT
   <0.01
   TCO2
   49
   49
   46
   40
   42
   Glucose
   163
   155
   127
   Other labs: PT / PTT / INR:30.6/37.3/3.0, CK / CKMB /
   Troponin-T:35/3/<0.01, Differential-Neuts:85.5 %, Lymph:8.1 %, Mono:6.4
   %, Eos:0.1 %, Lactic Acid:1.1 mmol/L, Ca++:8.4 mg/dL, Mg++:2.5 mg/dL,
   PO4:1.9 mg/dL
   Imaging: No sig change: alveolar-interstitial patchy opacities, lower
   lung field predominance.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   Vent d2
   >8cc/kg Vt, but vent more in sync and eliminated stacking with higher
   Vt and lower rate.
   No SBT as PEEP >12, will try to dial down FiO2 first, then PEEP as
   tolerated.
   Severe COPD. COPD exacerbation and pneumonia. Likely CAP, possible
   H1N1.
   tamiflu, ceftriaxone, azithro d2
   flu swab still pending
   solumedrol 125 q8, change to [**Hospital1 **] prednisone
 HYPOTENSION (NOT SHOCK)
 HEART FAILURE, RIGHT, ISOLATED (COR PULMONALE)
    Hypotension/borderline. RV failure/diastolic CHF and possibly early
   sepsis. 2L NS given.
   Coagulopathy pharmacologic, allowing INR to normalize. Team to discuss
   with PCP why pt is on coumadin. (FVL trait).
   Other issues per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2113-11-11**] 04:07 AM
   20 Gauge - [**2113-11-11**] 11:12 PM
   Arterial Line - [**2113-11-12**] 02:17 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin, stopped)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2113-11-13 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -changed from solumedrol to prednisone 60 [**Hospital1 **]
   -influenza dfa neg; stopped tamiflu and droplet precautions
   -nutrition consult obtained and started on TF
   -attempt to wean fiO2 failed.  changed from 60-> 50 and abg
   7.41/63/73/41
   -held coumadin
   -email or talk to PCP [**First Name8 (NamePattern2) **] [**Name9 (PRE) **] tomorrow to give update
   -restarted home lasix 20 mg daily
   -sputum Cx 1+ GNR (final still pending)
   -UOP dropped off -> given 500 cc bolus at 9:30pm
   -given lasix overnight as well
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2113-11-12**] 08:00 PM
   Azithromycin - [**2113-11-12**] 11:42 PM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2113-11-13**] 04:50 AM
   Fentanyl - [**2113-11-13**] 04:50 AM
   Other medications:
   500 mL NS 3. 500 mL NS 4. Albuterol Inhaler 5. Azithromycin 6.
   CeftriaXONE 7. Chlorhexidine Gluconate 0.12% Oral Rinse
   8. Dextrose 50% 9. Docusate Sodium 10. Fentanyl Citrate 11. Furosemide
   12. Glucagon 13. Insulin
   14. Ipratropium Bromide MDI 15. Lansoprazole Oral Disintegrating Tab
   16. Midazolam 17. Neutra-Phos
   18. PredniSONE 19. Senna 20. Simvastatin 21. Sodium Chloride 0.9% Flush
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-11-13**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.2
   HR: 61 (61 - 100) bpm
   BP: 96/48(64) {89/40(56) - 117/65(82)} mmHg
   RR: 14 (14 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
             Total In:
                                                                  2,775 mL
                                                                    858 mL
   PO:
             TF:
                                                                    181 mL
                                                                    259 mL
   IVF:
                                                                  2,108 mL
                                                                    600 mL
   Blood products:
                                                                    281 mL
   Total out:
                                                                    975 mL
                                                                    230 mL
   Urine:
                                                                    975 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,800 mL
                                                                    628 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 21 cmH2O
   SpO2: 94%
   ABG: 7.41/66/96.[**Numeric Identifier 7**]/38/13
   Ve: 7.3 L/min
   PaO2 / FiO2: 162
   Physical Examination
   Gen: intubated, opens eyes to voice, followed commands
   CV: rrr nl s1/s2 no m
   Pulm: decreased BS
   Abd: +BS, soft, NTND
   Ext: no edema
   Labs / Radiology
   285 K/uL
   11.8 g/dL
   163 mg/dL
   0.6 mg/dL
   38 mEq/L
   4.5 mEq/L
   30 mg/dL
   103 mEq/L
   145 mEq/L
   36.3 %
   10.7 K/uL
        [image002.jpg]
                             [**2113-11-11**]  04:48 AM
                             [**2113-11-11**]  05:06 AM
                             [**2113-11-11**]  11:43 AM
                             [**2113-11-11**]  03:22 PM
                             [**2113-11-12**]  01:40 AM
                             [**2113-11-12**]  04:23 AM
                             [**2113-11-12**]  04:37 AM
                             [**2113-11-12**]  11:19 AM
                             [**2113-11-13**]  03:07 AM
                             [**2113-11-13**]  06:38 AM
   WBC
   9.4
   7.8
   10.7
   Hct
   44.7
   37.0
   36.3
   Plt
   238
   250
   285
   Cr
   0.7
   0.8
   0.5
   0.6
   TropT
   <0.01
   TCO2
   49
   46
   40
   42
   41
   43
   Glucose
   163
   155
   127
   163
   Other labs: PT / PTT / INR:35.5/37.3/3.6, CK / CKMB /
   Troponin-T:35/3/<0.01, Differential-Neuts:85.5 %, Lymph:8.1 %, Mono:6.4
   %, Eos:0.1 %, Lactic Acid:1.1 mmol/L, Ca++:8.9 mg/dL, Mg++:2.5 mg/dL,
   PO4:2.9 mg/dL
   Microbiology: urine legionella [**11-13**] pending
   resp [**11-11**] neg
   flu [**11-12**] neg
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HEART FAILURE, RIGHT, ISOLATED (COR PULMONALE)
   58 yo M w hx of COPD (FEV1 24% predicted), diastolic CHF, presents with
   two days of increasing DOE and weakness and fatigue, now intubated and
   sedated.
   #. Hypercarbic respiratory failure: Most likely due to a COPD
   exacerbation in setting of a community acquired pneumonia.  WBC count
   downtrending, ABG
s were improving with hypercarbia likely not too far
   off baseline.
   - FU sputum culture and urinary legionella antigen
   - Continue ceftriaxone and azithromycin, today is day3  of 7 day course
   - Albuterol and ipratropium MDIs
   - prednisone 60mg po BID x 3 days (today day 3), then 60mg po daily
   with slow taper
   - d/c
d tamiflu
   - Maintain oxygen sats in the low 90s
   - Change to PS today then will attempt to wean FiO2 today, then if
   tolerates, will begin to wean PEEP.  Can do SBT when PEEP and FiO2
   lower.
   #. Decreased UOP: Likely due to poor fwd flow to kidneys though on exam
   still seems hypervolemic
   -Lasix 20mg IV X1.
   #. Coagulopathy: INR still elevated at 3.6
   - Trend HCT and INR and allow to drift down without active reversal at
   this time
   - Hold Coumadin and will likely restart when INR is 2.5 or less
   - Reportedly on Coumadin due to h/o CVA and factor V leiden
   heterozygosity
   #. Hyperlipidemia: Continue simvastatin
   #. Diastolic heart failure:
   - Lasix IV X1 now.
   - Doesn
t need echo as had one in the last several months ([**7-16**])
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2113-11-13**] 05:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2113-11-11**] 04:07 AM
   20 Gauge - [**2113-11-11**] 11:12 PM
   Arterial Line - [**2113-11-12**] 02:17 AM
   Prophylaxis:
   DVT: INR 3.6
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:  d/w family regarding possibility of trache?
   Code status: Full code
   Disposition: ICU level of care

2113-11-14 07:44:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 4**] Resident Progress Note
   Chief Complaint: SOB
   24 Hour Events:
   - did not tolerate Fi02 coming down, switched to PS [**8-19**] on fi02 of 55%
   7.33/75/74.  Converted to bolus dosing of Midazolam.  on [**11-15**] was
   7.36/74/74 so settings kept as is.
   - given 20mg IV lasix X1
   - given triamcinolone cream for face
 SPUTUM CULTURE - At [**2113-11-13**] 12:31 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2113-11-13**] 07:48 PM
   Azithromycin - [**2113-11-13**] 10:53 PM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2113-11-13**] 12:30 PM
   Fentanyl - [**2113-11-14**] 03:45 AM
   Midazolam (Versed) - [**2113-11-14**] 03:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-11-14**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98.1
   HR: 79 (64 - 107) bpm
   BP: 129/65(87) {95/47(63) - 140/73(96)} mmHg
   RR: 11 (11 - 27) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.6 kg (admission): 87.1 kg
   Height: 66 Inch
             Total In:
                                                                  2,197 mL
                                                                    461 mL
   PO:
             TF:
                                                                  1,006 mL
                                                                    378 mL
   IVF:
                                                                  1,106 mL
                                                                     83 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                    370 mL
   Urine:
                                                                  1,650 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    547 mL
                                                                     91 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 613 (409 - 681) mL
   PS : 9 cmH2O
   RR (Set): 12
   RR (Spontaneous): 13
   PEEP: 12 cmH2O
   FiO2: 55%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 21 cmH2O
   Compliance: 61.1 cmH2O/mL
   SpO2: 91%
   ABG: 7.36/74/74/41/11 @12:10am today
   Ve: 5.8 L/min
   PaO2 / FiO2: 135
   Physical Examination
   Gen: intubated, eyes open, communicative, trying to speak and writing,
   still diaphoretic
   CV: rrr nl s1/s2 no mrg
   Pulm: good air movement bilaterally, clear without wheezing
   Abd: +BS, soft, NTND
   Ext: no edema, with twitching of left arm and left side of face
   Labs / Radiology
   264 K/uL
   12.2 g/dL
   178 mg/dL
   0.6 mg/dL
   41 mEq/L
   4.6 mEq/L
   31 mg/dL
   103 mEq/L
   147 mEq/L
   38.4 %
   9.4 K/uL
        [image002.jpg]
                             [**2113-11-12**]  01:40 AM
                             [**2113-11-12**]  04:23 AM
                             [**2113-11-12**]  04:37 AM
                             [**2113-11-12**]  11:19 AM
                             [**2113-11-13**]  03:07 AM
                             [**2113-11-13**]  06:38 AM
                             [**2113-11-13**]  03:10 PM
                             [**2113-11-13**]  06:25 PM
                             [**2113-11-14**]  12:10 AM
                             [**2113-11-14**]  03:46 AM
   WBC
   7.8
   10.7
   9.4
   Hct
   37.0
   36.3
   38.4
   Plt
   [**Telephone/Fax (3) 10409**]
   Cr
   0.5
   0.6
   0.6
   TCO2
   40
   42
   41
   43
   45
   41
   44
   Glucose
   127
   163
   178
   Other labs: PT / PTT / INR:35.5/37.3/3.6, CK / CKMB /
   Troponin-T:35/3/<0.01, Differential-Neuts:85.5 %, Lymph:8.1 %, Mono:6.4
   %, Eos:0.1 %, Lactic Acid:0.8 mmol/L, Ca++:8.7 mg/dL, Mg++:2.8 mg/dL,
   PO4:3.4 mg/dL
                                                                [**2113-11-14**]
                                                                    06:20a
   _______________________________________________________________________
   Source: Catheter
   Color
   Yellow
   Appear
   Hazy
   SpecGr
   1.028
   pH
   6.5
   Urobil
   >12
   Bili
   Neg
   Leuk
   Neg
   Bld
   Lg
   Nitr
   Neg
   Prot
   30
   Glu
   Neg
   Ket
   Neg
   RBC
   >1000
   WBC
   4
   Bact
   None
   Yeast
   None
   Epi
   0
   Other Urine Counts
   Mucous: Rare
   [**2113-11-13**] Urine culture pending
   [**2113-11-13**] Blood culture pending
[**2113-11-13**] 12:31 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2113-11-13**]):
      <10 PMNs and <10 epithelial cells/100X field.
      NO MICROORGANISMS SEEN.
      QUALITY OF SPECIMEN CANNOT BE ASSESSED.
   RESPIRATORY CULTURE (Preliminary):
   [**2113-11-13**] Urine Legionella Ag negative
   [**2113-11-11**] Respiratory Viral culture negative
   [**2113-11-13**] Chest Xray Read: Interval improvement of pulmonary edema with
   no new focal opacity.
   New CXR today in OMR
   Assessment and Plan
   58 yo M w hx of COPD (FEV1 24% predicted), diastolic CHF, presents with
   two days of increasing DOE and weakness and fatigue, now intubated and
   sedated.
   #. Hypercarbic respiratory failure: Most likely due to a COPD
   exacerbation in setting of a possible community acquired pneumonia.
   WBC count downtrending, ABG
s were improving with hypercarbia likely
   not too far off baseline.
   - FU sputum culture, urinary legionella antigen negative
   - Continue ceftriaxone and azithromycin, today is day 4 of 7 day course
   - Albuterol and ipratropium MDIs
   - prednisone 60mg po BID course completed yesterday, switch to 60mg po
   daily today with slow taper
   - d/c
d tamiflu
   - Maintain oxygen sats in the low 90s
   - Likely would benefit from some diuresis given likely volume
   overload.  Goal negative 1-2L today
   - Stop TF today
   - Keep on PS 5/5 today and attempt to wean FiO2 today, then if
   tolerates, can hopefully extubate today
   #. Decreased UOP: Likely due to poor fwd flow to kidneys though on exam
   still seems hypervolemic
   - Continue with lasix boluses, urine output responded well to 20mg IV
   yesterday
   #. Coagulopathy: INR now therapeutic
   - Restart home Coumadin today, likely will not need bridge
   - Reportedly on Coumadin due to h/o CVA and factor V leiden
   heterozygosity
   #. Hyperlipidemia: Continue simvastatin
   #. Diastolic heart failure:
   - Doesn
t need echo as had one in the last several months ([**7-16**])
   ICU Care
   Nutrition: Nutren Pulmonary (Full) - [**2113-11-14**] 12:00 AM 50 mL/hour,
   will repeat CXR to confirm OG tube placement when restarting after
   extubation
   Glycemic Control:  Insulin sliding scale
   Lines: 18 Gauge - [**2113-11-11**] 04:07 AM
   20 Gauge - [**2113-11-11**] 11:12 PM
   Arterial Line - [**2113-11-12**] 02:17 AM
   Prophylaxis:
   DVT: INR supratherapeutic
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2113-11-15 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2113-11-14**] 03:06 PM
 ARTERIAL LINE - STOP [**2113-11-15**] 12:53 AM
   Pt extubated [**11-14**] afternoon, received pt on face tent.  O2 sats about
   88-90%, post-extubation gas 7.43/72/60/49/18
    (metabolic alkalosis w/PCO2 higher than expected).  Put on 6 L NC,
   tolerated wellbut dropped down to low 80s while sleeping, switched back
   to face tent and increased to 50% for O2 sat in 70s.
   - Given 20mg IV Lasix x 3 for diuresis, at 12am was -2L (held off on
   further Lasix since super negative and bicarb rising and increased
   oxygen)
   - Gave trazodone for sleep
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2113-11-14**] 07:40 PM
   Azithromycin - [**2113-11-15**] 12:52 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2113-11-14**] 08:26 AM
   Midazolam (Versed) - [**2113-11-14**] 08:26 AM
   Furosemide (Lasix) - [**2113-11-14**] 09:37 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-11-15**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.5
C (97.7
   HR: 71 (66 - 88) bpm
   BP: 116/71(80) {116/58(70) - 136/98(106)} mmHg
   RR: 20 (12 - 31) insp/min
   SpO2: 86%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.2 kg (admission): 87.1 kg
   Height: 66 Inch
             Total In:
                                                                  1,202 mL
                                                                    319 mL
   PO:
                                                                    240 mL
             TF:
                                                                    600 mL
   IVF:
                                                                    302 mL
                                                                    319 mL
   Blood products:
   Total out:
                                                                  3,260 mL
                                                                    840 mL
   Urine:
                                                                  3,260 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,058 mL
                                                                   -521 mL
   Respiratory support
   O2 Delivery Device: Face tent at 50% FiO2
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 456 (456 - 613) mL
   PS : 5 cmH2O
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 12 cmH2O
   SpO2: 86%
   ABG: 7.43/72/60/47/18
   Ve: 5.2 L/min
   PaO2 / FiO2: 120
   Physical Examination
   Gen: Awake and alert with facemask in place, tachypneic,
   HEENT: NCAT, seborrheic dermatitis over face, OP clear
   CV: RRR, distant heart sounds, no murmurs appreciated
   Pulm: No air movement at bases, with decreased air movement and
   occasional wheezes at apices b/l
   Abd: soft, NT, ND, +BS
   Extrem: no c/c/e, 2+ peripheral pulses
   Labs / Radiology
   249 K/uL
   12.9 g/dL
   91 mg/dL
   0.5 mg/dL
   47 mEq/L
   3.7 mEq/L
   26 mg/dL
   95 mEq/L
   143 mEq/L
   40.4 %
   12.0 K/uL
         [image002.jpg]
                             [**2113-11-12**]  11:19 AM
                             [**2113-11-13**]  03:07 AM
                             [**2113-11-13**]  06:38 AM
                             [**2113-11-13**]  03:10 PM
                             [**2113-11-13**]  06:25 PM
                             [**2113-11-14**]  12:10 AM
                             [**2113-11-14**]  03:46 AM
                             [**2113-11-14**]  06:00 PM
                             [**2113-11-14**]  07:27 PM
                             [**2113-11-15**]  04:00 AM
   WBC
   10.7
   9.4
   12.0
   Hct
   36.3
   38.4
   40.4
   Plt
   285
   264
   249
   Cr
   0.6
   0.6
   0.6
   0.5
   TCO2
   41
   43
   45
   41
   44
   49
   Glucose
   163
   178
   123
   91
   Other labs: PT / PTT / INR:17.6/27.0/1.6, CK / CKMB /
   Troponin-T:35/3/<0.01, Differential-Neuts:85.5 %, Lymph:8.1 %, Mono:6.4
   %, Eos:0.1 %, Lactic Acid:0.8 mmol/L, Ca++:8.6 mg/dL, Mg++:2.6 mg/dL,
   PO4:2.8 mg/dL
   Micro:
[**2113-11-11**] 11:55 am SPUTUM      Source: Endotracheal.
                            **FINAL REPORT [**2113-11-13**]**
   GRAM STAIN (Final [**2113-11-11**]):
      >25 PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      SMEAR REVIEWED; RESULTS CONFIRMED.
      RESPIRATORY CULTURE (Final [**2113-11-13**]):    NO GROWTH.
   [**11-12**] Influenza DFA neg
   [**11-13**] Urine legionella Ag neg
[**2113-11-13**] 12:31 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2113-11-13**]):
      <10 PMNs and <10 epithelial cells/100X field.
      NO MICROORGANISMS SEEN.
      QUALITY OF SPECIMEN CANNOT BE ASSESSED.
   RESPIRATORY CULTURE (Preliminary):    NO GROWTH.
   [**11-13**] BCx and UCx pending
   CXR this AM
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HEART FAILURE, RIGHT, ISOLATED (COR PULMONALE)
   58 yo M w hx of COPD (FEV1 24% predicted), diastolic CHF, presents with
   two days of increasing DOE and weakness and fatigue, intubated for
   respiratory failure and now extubated.
   #. Hypercarbic respiratory failure: Most likely due to a COPD
   exacerbation with a component of fluid overload.  Less likely pneumonia
   given negative gram stain and underwhelming CXR.  A contributor to his
   hypoxia is also PFO with L to R shunt.  Now extubated with ABG
   showing hypercarbia likely not too far off baseline.
   - FU sputum culture, blood and urine
   - Continue ceftriaxone today is day 5 of 7 day course (received Azithro
   x 4 days)
   - Albuterol and ipratropium MDIs
   - prednisone decreased to 60mg po daily yesterday with plan for slow
   taper
   - Maintain oxygen sats in the low 90s
   - Likely would benefit from some diuresis given likely volume
   overload.  Goal negative 1L today
   .
   # CP new onset during rounds.  Low suspicion for cardiac source.
   - ECG now
   - Will send CE
s if any ECG changes.
   #. Decreased UOP: Likely due to poor fwd flow to kidneys though on exam
   still seems hypervolemic
   - Continue with lasix boluses, urine output responded well to 20mg IV
   yesterday; goal neg 1-2 L today.
   #. Coagulopathy: INR subtherapeutic today, but no need for bridging.
   - Restarted home Coumadin yesterday
   - Reportedly on Coumadin due to h/o CVA and factor V leiden
   heterozygosity
   #. Hyperlipidemia: Continue simvastatin
   #. Diastolic heart failure:
   - Doesn
t need echo as had one in the last several months ([**7-16**])
   ICU Care
   Nutrition: NPO right now, advance to clears versus S&S
   Glycemic Control:  Insulin SS
   Lines:
   18 Gauge - [**2113-11-11**] 04:07 AM
   20 Gauge - [**2113-11-11**] 11:12 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2113-11-16 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - breathing more labored in PM; put on standing nebs, added
   guaifenesin, chest PT
   - lasix 20 IV x 2: I/O check
   - Cardiac enzymes neg x 2
   This AM, pt reports: Feels that his breathing is slightly worse, but
   has not had a nebulizer treatment in several hours.  Unable to sleep
   for most of night.  No pain, fever, chills, nausea.  Tolerating PO
   diet.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2113-11-15**] 12:52 AM
   Ceftriaxone - [**2113-11-15**] 07:27 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2113-11-15**] 08:15 AM
   Furosemide (Lasix) - [**2113-11-15**] 03:57 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-11-16**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 91 (70 - 109) bpm
   BP: 105/70(77) {98/52(68) - 132/73(85)} mmHg
   RR: 21 (16 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.7 kg (admission): 87.1 kg
   Height: 66 Inch
             Total In:
                                                                  1,020 mL
                                                                     69 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                    540 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  3,150 mL
                                                                    235 mL
   Urine:
                                                                  3,150 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,130 mL
                                                                   -166 mL
   Respiratory support
   O2 Delivery Device: Face tent at 50% FiO2
   SpO2: 94%
   ABG: ///42/
   Physical Examination
   Gen: Awake and alert with facemask in place, tachypneic, using
   accessory muscles to breathe
   HEENT: NCAT, seborrheic dermatitis over face, OP clear
   CV: RRR, distant heart sounds, no murmurs appreciated
   Pulm: Minimal  air movement at bases, with decreased air movement and
   occasional wheezes at apices b/l (improved from prior exams)
   Abd: soft, NT, ND, +BS
   Extrem: no c/c/e, 2+ peripheral pulses
   Labs / Radiology
   268 K/uL
   13.5 g/dL
   98 mg/dL
   0.5 mg/dL
   42 mEq/L
   4.0 mEq/L
   25 mg/dL
   94 mEq/L
   143 mEq/L
   43.2 %
   13.2 K/uL
        [image002.jpg]
                             [**2113-11-13**]  06:38 AM
                             [**2113-11-13**]  03:10 PM
                             [**2113-11-13**]  06:25 PM
                             [**2113-11-14**]  12:10 AM
                             [**2113-11-14**]  03:46 AM
                             [**2113-11-14**]  06:00 PM
                             [**2113-11-14**]  07:27 PM
                             [**2113-11-15**]  04:00 AM
                             [**2113-11-15**]  03:20 PM
                            [**2113-11-16**]  04:08 AM
   WBC
   9.4
   12.0
   13.2
   Hct
   38.4
   40.4
   43.2
   Plt
   [**Telephone/Fax (3) 10451**]
   Cr
   0.6
   0.6
   0.5
   0.6
   0.5
   TropT
   <0.01
   <0.01
   TCO2
   43
   45
   41
   44
   49
   Glucose
   178
   123
   91
   146
   98
   Other labs: PT / PTT / INR:24.0/27.8/2.3, CK / CKMB /
   Troponin-T:42/3/<0.01, Differential-Neuts:85.5 %, Lymph:8.1 %, Mono:6.4
   %, Eos:0.1 %, Lactic Acid:0.8 mmol/L, Ca++:9.2 mg/dL, Mg++:2.7 mg/dL,
   PO4:3.8 mg/dL
[**2113-11-11**] 11:55 am SPUTUM      Source: Endotracheal.
                            **FINAL REPORT [**2113-11-13**]**
   GRAM STAIN (Final [**2113-11-11**]):
      >25 PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      SMEAR REVIEWED; RESULTS CONFIRMED.
      RESPIRATORY CULTURE (Final [**2113-11-13**]):    NO GROWTH.
   [**11-12**] Influenza DFA neg
   [**11-13**] Urine legionella Ag neg
[**2113-11-13**] 12:31 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2113-11-13**]):
      <10 PMNs and <10 epithelial cells/100X field.
      NO MICROORGANISMS SEEN.
      QUALITY OF SPECIMEN CANNOT BE ASSESSED.
   RESPIRATORY CULTURE (final):    NO GROWTH.
   [**11-13**] BCx pending
   [**11-13**] UCx neg
   No CXR this AM
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HEART FAILURE, RIGHT, ISOLATED (COR PULMONALE)
   58 yo M w hx of COPD (FEV1 24% predicted), diastolic CHF, presents with
   two days of increasing DOE and weakness and fatigue, intubated for
   respiratory failure and now extubated.
   #. Hypercarbic respiratory failure: Most likely due to a COPD
   exacerbation with a component of fluid overload.  Less likely pneumonia
   given negative gram stain and underwhelming CXR.  A contributor to his
   hypoxia is also PFO with L to R shunt.  Now extubated with ABG
   showing hypercarbia likely not far off baseline.
   - FU final B Cx
   - Continue ceftriaxone today is day 6 of 7 day course (received Azithro
   x 4 days)
   - Albuterol and ipratropium nebs prn
   - continue chest PT, guaifenesin
   - prednisone at 60mg po daily with plan for slow taper (this is day 2
   at this dose)
   - Maintain oxygen sats in the low 90s
   - Likely would benefit from further diuresis given likely volume
   overload.  Goal negative 1L today
   - restart home lasix PO
   - PM I/O check
   .
   # CP yesterday.  Low suspicion for cardiac source.  No ECG changes, 2
   negative cardiac enzymes.  Continue to monitor.
   #. Decreased UOP: Likely due to poor fwd flow to kidneys though on exam
   still seems hypervolemic
   - Continue with lasix boluses, urine output responded well to 20mg IV
   yesterday; goal neg 1-2 L today.
   #. Coagulopathy: INR therapeutic today, but no need for bridging.
   - Restarted home Coumadin yesterday
   - Reportedly on Coumadin due to h/o CVA and factor V leiden
   heterozygosity
   #. Hyperlipidemia: Continue simvastatin
   #. Diastolic heart failure:
   - Doesn
t need echo as had one in the last several months ([**7-16**])
   ICU Care
   Nutrition: Full liquids, advance as tolerated
   Glycemic Control:  Insulin SS
   Lines:
   18 Gauge - [**2113-11-11**] 04:07 AM
   20 Gauge - [**2113-11-11**] 11:12 PM
   Prophylaxis:
   DVT: Coumadin
   Stress ulcer: PPI
   VAP:
   Comments: Bowel regimen with senna, colace, bisacodyl
   Communication:  Comments:
   Code status: Full code
   Disposition: Screened for pulmonary rehab, possible discharge today if
   patient amenable

2113-11-17 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - desat to 83% at 9pm, imprved with neb.  CXR did not look
   significantly changed.
   - was to go to rehab however was too far from home.  Pt. to go to
   [**Hospital1 **] today
   This AM, pt reports his breathing is unchanged, no F/C or pain.
   Continues to have SOB at baseline, which is improved with nebulizer
   treatments.  Reports he is ready to go to rehab.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2113-11-15**] 12:52 AM
   Ceftriaxone - [**2113-11-16**] 07:36 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2113-11-16**] 07:40 AM
   Lansoprazole (Prevacid) - [**2113-11-16**] 08:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-11-17**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.5
C (97.7
   HR: 70 (70 - 102) bpm
   BP: 103/61(71) {103/49(66) - 129/92(101)} mmHg
   RR: 25 (18 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.8 kg (admission): 87.1 kg
   Height: 66 Inch
                  Total In:
                                                                    780 mL
                  PO:
                                                                    690 mL
                  TF:
   IVF:
                                                                     90 mL
   Blood products:
   Total out:
                                                                  1,485 mL
                                                                    275 mL
   Urine:
                                                                  1,485 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -705 mL
                                                                   -275 mL
   Respiratory support
   O2 Delivery Device: Face tent at 50% FiO2
   SpO2: 93%
   ABG: ///39/
   Physical Examination
   Gen: Awake and alert, talkative this AM
   HEENT: NCAT, seborrheic dermatitis over face, OP clear
   CV: Distant heart sounds, RRR, S1, S2, no murmurs appreciated
   Pulm: Minimal air movement at bases, with decreased air movement and
   occasional wheezes at apices b/l
   Abd: soft, NT, ND, +BS
   Extrem: no c/c/e, 2+ peripheral pulses
   Labs / Radiology
   255 K/uL
   14.0 g/dL
   101 mg/dL
   0.5 mg/dL
   39 mEq/L
   4.1 mEq/L
   23 mg/dL
   96 mEq/L
   139 mEq/L
   44.8 %
   12.5 K/uL
        [image002.jpg]
                             [**2113-11-13**]  03:10 PM
                             [**2113-11-13**]  06:25 PM
                             [**2113-11-14**]  12:10 AM
                             [**2113-11-14**]  03:46 AM
                             [**2113-11-14**]  06:00 PM
                             [**2113-11-14**]  07:27 PM
                             [**2113-11-15**]  04:00 AM
                             [**2113-11-15**]  03:20 PM
                            [**2113-11-16**]  04:08 AM
                            [**2113-11-17**]  04:24 AM
   WBC
   9.4
   12.0
   13.2
   12.5
   Hct
   38.4
   40.4
   43.2
   44.8
   Plt
   [**Telephone/Fax (3) 10465**]55
   Cr
   0.6
   0.6
   0.5
   0.6
   0.5
   0.5
   TropT
   <0.01
   <0.01
   TCO2
   45
   41
   44
   49
   Glucose
   178
   123
   91
   146
   98
   101
   Other labs: PT / PTT / INR:32.8/32.8/3.3, CK / CKMB /
   Troponin-T:42/3/<0.01, Differential-Neuts:82.2 %, Lymph:9.6 %, Mono:4.8
   %, Eos:3.2 %, Lactic Acid:0.8 mmol/L, Ca++:8.5 mg/dL, Mg++:2.7 mg/dL,
   PO4:2.5 mg/dL
   Micro:
   BCx [**11-13**] pending
   CXR overnight  -> no interval change
   Assessment and Plan
   58 yo M w hx of COPD (FEV1 24% predicted), diastolic CHF, presents with
   two days of increasing DOE and weakness and fatigue, intubated for
   respiratory failure and now extubated.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**]): Most likely due to a COPD
   exacerbation with a component of fluid overload.  Less likely pneumonia
   given negative gram stain and underwhelming CXR.  A contributor to his
   hypoxia is also PFO with L to R shunt.  Now extubated with ABG
   showing hypercarbia likely not far off baseline.
   - FU final B Cx
   - Continue ceftriaxone (last day of 7 today) (received Azithro x 4
   days)
   - Albuterol and ipratropium nebs prn
   - continue chest PT, guaifenesin
   - prednisone at 60mg po daily with plan for slow taper (this is day 3
   at this dose)
   - Maintain oxygen sats in the low 90s
   - Likely would benefit from further diuresis given likely volume
   overload.  Goal negative 1L today
   - restart home lasix PO (20 mg daily)
   - patient will need 6 week CXR to evaluate for resolution of bilateral
   LL opacities; if no resolution will need high resolution CT
   .
   # CP, now resolved, likely related to bronchospasm.  Low suspicion for
   cardiac source.  No ECG changes, 2 negative cardiac enzymes.  Continue
   to monitor.
   #. Coagulopathy: INR supratherapeutic today (may need lower dose)
   - Restarted home Coumadin
   - Reportedly on Coumadin due to h/o CVA and factor V leiden
   heterozygosity
   #. Hyperlipidemia: Continue simvastatin
 HEART FAILURE, RIGHT, ISOLATED (COR PULMONALE)
   - Doesn
t need echo as had one in the last several months ([**7-16**])
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2113-11-11**] 04:07 AM
   20 Gauge - [**2113-11-11**] 11:12 PM
   Prophylaxis:  Insulin SS
   DVT: Coumadin; supratherapeutic today (hold tonight)
   Stress ulcer: PPI
   VAP:
   Comments: bowel regimen with senna, colace, bisacodyl
   Communication:  Comments: Daughter [**Known firstname **]
   [**Last Name (NamePattern1) 156**] status: Full code
   Disposition: Transfer to Rehab today at [**Hospital1 **]

2113-11-17 09:51:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Feeling better but not at baseline. Desats with min exertion
   24 Hour Events:
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2113-11-15**] 12:52 AM
   Ceftriaxone - [**2113-11-16**] 07:36 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2113-11-17**] 08:28 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, Coagulopathy,
   anticoag
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine,
   steroid taper
   Signs or concerns for abuse : No
   Pain: [**12-9**] Minimal
   Flowsheet Data as of  [**2113-11-17**] 09:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 103 (70 - 103) bpm
   BP: 105/59(70) {103/49(66) - 129/92(101)} mmHg
   RR: 34 (18 - 34) insp/min
   SpO2: 84%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87.8 kg (admission): 87.1 kg
   Height: 66 Inch
                  Total In:
                                                                    780 mL
                                                                    270 mL
   PO:
                                                                    690 mL
                                                                    270 mL
   TF:
   IVF:
                                                                     90 mL
   Blood products:
   Total out:
                                                                  1,485 mL
                                                                    335 mL
   Urine:
                                                                  1,485 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -705 mL
                                                                    -65 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 84%
   ABG: ///39/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   Fixed), No(t) S3, No(t) S4, No(t) Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , Hyperresonant: , No(t) Dullness : ), (Breath
   Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , Wheezes : ,
   Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   14.0 g/dL
   255 K/uL
   101 mg/dL
   0.5 mg/dL
   39 mEq/L
   4.1 mEq/L
   23 mg/dL
   96 mEq/L
   139 mEq/L
   44.8 %
   12.5 K/uL
        [image002.jpg]
                             [**2113-11-13**]  03:10 PM
                             [**2113-11-13**]  06:25 PM
                             [**2113-11-14**]  12:10 AM
                             [**2113-11-14**]  03:46 AM
                             [**2113-11-14**]  06:00 PM
                             [**2113-11-14**]  07:27 PM
                             [**2113-11-15**]  04:00 AM
                             [**2113-11-15**]  03:20 PM
                            [**2113-11-16**]  04:08 AM
                            [**2113-11-17**]  04:24 AM
   WBC
   9.4
   12.0
   13.2
   12.5
   Hct
   38.4
   40.4
   43.2
   44.8
   Plt
   [**Telephone/Fax (3) 10465**]55
   Cr
   0.6
   0.6
   0.5
   0.6
   0.5
   0.5
   TropT
   <0.01
   <0.01
   TCO2
   45
   41
   44
   49
   Glucose
   178
   123
   91
   146
   98
   101
   Other labs: PT / PTT / INR:32.8/32.8/3.3, CK / CKMB /
   Troponin-T:42/3/<0.01, Differential-Neuts:82.2 %, Lymph:9.6 %, Mono:4.8
   %, Eos:3.2 %, Lactic Acid:0.8 mmol/L, Ca++:8.5 mg/dL, Mg++:2.7 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HEART FAILURE, RIGHT, ISOLATED (COR PULMONALE)
   Still not at baseline but has gradually improved.  Continues to desat
   with min exertion.  Diuresed slightly but not clearly at dry weight.
   Plan for rehab now with steroid taper and f/u with Dr. [**Last Name (STitle) 712**] as an
   outpatient in [**Month (only) 2877**]. Oriented but cognitively not completely intact -
   short term memory impaired
   ICU Care
   Nutrition:
   Comments: Full
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2113-11-11**] 04:07 AM
   20 Gauge - [**2113-11-11**] 11:12 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes